US04948794
A solution of 2.0 g (8.4 mmol) N-cyclohexyl-4-fluoro-2-nitroaniline in a mixture of 100 ml ethanol and 50 ml ethyl acetate was hydrogenated at atm. pressure by using Ra-Ni (1 g) as a catalyst. The reaction mixture was filtered and evaporated in vacuo to give an oil. A mixture of the oil, 2.8 g (23 mmol) oxalic acid dihydrate, 10 ml ethanol and 150 ml 4N hydrochloric acid was refluxed for 11/2h. After cooling to 25 C. the precipitate was filtered off and washed with water to give 1.1 g (50%) 1-cyclohexyl-6-fluoroquinoxaline2,3(1H,4H)-dione. M.p. 289.8° C., 1H-NMR (DMSO-d6) :12.0 (1H, broad s), 7.6 (1H, M), 7.0 (2H, M), 4.5 (1H, M), 2.6-0.9 (10H, M).

reactant | N-cyclohexyl-4-fluoro-2-nitroaniline | 8.4 mmol, 2.0 g | C1(CCCCC1)NC1=C(C=C(C=C1)F)[N+](=O)[O-] | C12H15FN2O2
reactant | oxalic acid dihydrate | 23 mmol, 2.8 g | O.O.C(C(=O)O)(=O)O
reactant | hydrochloric acid | 4N, 150 ml | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
catalyst | Ra-Ni | 1 g | [Ni] | Ni
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 1-cyclohexyl-6-fluoroquinoxaline2,3(1H,4H)-dione | 1.1 g, 50% | C1(CCCCC1)N1C(C(NC2=CC(=CC=C12)F)=O)=O | C14H15FN2O2
